US04550107
2-[(4-Morpholinyl)methyl]piperidine
First, 2-[(4-morpholinyl)methyl]pyridine (94.0 g, 0.53 mol) is dissolved in glacial acetic acid (600 ml) and hydrogenated in the presence of platinum(IV) oxide (10.0 g) as catalyst for 2 hours at a hydrogen pressure of 3 bar and a temperature of 50° C. After cooling, the catalyst is filtered off, the filtrate is freed from solvent and the residue is distilled in vacuo. The desired compound (51.0 g) is obtained in the form of a colorless liquid, boiling point 4 mm Hg 91°-92° C.

reactant | 2-[(4-morpholinyl)methyl]pyridine | 0.53 mol, 94.0 g | N1(CCOCC1)CC1=NC=CC=C1 | C10H14N2O
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
catalyst | platinum(IV) oxide | 10.0 g | [Pt](=O)=O
product | 2-[(4-Morpholinyl)methyl]piperidine | 51.0 g | N1(CCOCC1)CC1NCCCC1 | C10H20N2O
